US04411893
To 28.6 g of dimethylheptyl amine was added slowly 100 ml 30% H2O2 as in Example 4 to give the dimethylheptyl amine oxide. NMR showed the resulting semisolid material to contain 29% water and 71% of the amine oxide.

reactant | dimethylheptyl amine | 28.6 g | CN(CCCCCCC)C | C9H21N
reactant | H2O2 | 100 ml | OO | H2O2
product | dimethylheptyl amine oxide | C[N+](CCCCCCC)(C)[O-] | C9H21NO
